US09446034B2
To a 25 mL round bottom was added 4-(methyloxy)-3-oxobutanenitrile (500 mg, 4.42 mmol), ethyl hydrazine (655 mg, 4.42 mmol), and 2 M HCl (2.210 mL, 4.42 mmol) in ethanol (10 mL). The reaction mixture was stirred at the room temperature overnight. The reaction mixture was then evaporated and pardoned between 20 mL of ethyl acetate and 20 mL of 1 M Na2CO3. The organic layer was washed with brine, filtered and evaporated to obtain 1-ethyl-3-[(methyloxy)methyl]-1H-pyrazol-5-amine (450 mg, 2.465 mmol, 55.8% yield) as a yellow oil. The product was used in the next step without further purification. LCMS (M+H)+=156.1; 1H NMR (400 MHz, DMSO-d6) ppm 1.20 (t, J=7.20 Hz, 3 H) 3.19 (s, 3 H) 3.82 (q, J=7.33 Hz, 2 H) 4.11 (s, 2 H) 5.11 (s, 2 H) 5.22 (s, 1H).

reactant | 4-(methyloxy)-3-oxobutanenitrile | 4.42 mmol, 500 mg | COCC(CC#N)=O | C5H7NO2
reactant | ethyl hydrazine | 4.42 mmol, 655 mg | C(C)NN | C2H8N2
reactant | HCl | 4.42 mmol, 2 M, 2.210 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-ethyl-3-[(methyloxy)methyl]-1H-pyrazol-5-amine | 2.465 mmol, 450 mg, 55.8% yield | C(C)N1N=C(C=C1N)COC | C7H13N3O
